reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:3]([C:4]#[N:5])([H:7])([H:9])[H:10].[O:1]([C:2][H:8])[H:6]>>[O:1]([C:2]([C:3]([C:4]#[N:5])([H:9])[H:10])([H:7])[H:8])[H:6],25.69156623806539
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[N:1](=[C:2]=[C:3]([C:4]([C:5](=[O:6])[H:10])([H:8])[H:9])[H:7])[H:11],89.9569877869293
[O:1]([C:2]([C@@:3]([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([H:12])[H:13])([O:7][H:14])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[O:7]1)([H:9])[H:10])[H:8],72.13997782737448
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[C:2]1([H:8])=[C:3]([H:10])[C:4]1([C:5]#[C:6][H:12])[H:11].[O:1]([H:7])[H:9],77.9526429703766
[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8].[H:10][H:11],92.0013541550589
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[N:6]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C-:1]([N+:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[N:6]([H:13])[H:14])[H:9])([H:7])[H:8],86.280641564116
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[O:6][C:5]1([H:14])[H:15])([H:7])([H:8])[H:9].[O:4]([H:13])[H:16]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],64.6952512007761
[O:1]([C:2]([C@@:3]1([H:7])[C:4]([H:8])=[N:5]1)([H:6])[H:9])[H:10]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],60.8154951341627
[C:1]([C:2]([O:3][C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C-:4]#[O+:5].[C:1]([C:2](=[O:3])[H:9])([H:6])([H:7])[H:8].[H:10][H:11],72.4087206148118
[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[H:10])[O:6]/[C:5](=[N:4]/[H:11])[H:12])([H:7])([H:8])[H:9],57.52798740468951
[N:1](=[C:5](/[C-:2]([N+:3]#[N:4])[H:7])[H:8])\[H:6]>>[n:1]1([H:6])[c:2]([H:7])[n:3][n:4][c:5]1[H:8],88.4435779550013
[C:1]([C:2]([O:3][H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:12]>>[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],33.10012024729251
[C:1]([N:2]=[C:3]=[O:4])([H:7])([H:8])[H:9].[O:5]([C:6]([H:11])([H:12])[H:13])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],31.802903705237906
[N:1]([C@:6]1([H:12])[O:5][C:4]([H:10])([H:11])[C:2](=[O:3])[O:7]1)([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],44.39041781380591
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4]2=[C:5]([H:12])[C:6]2=[C:7]1[H:13])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8],45.002117178351504
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([O:5][H:14])=[C:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],70.1910256351685
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])(/[N:4]=[C:5](/[O:6][H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9],31.652503379239402
[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[C:4]([C:5]#[N:6])[H:13])([H:10])[H:11].[H:7][H:12].[O:1]=[C:2]([H:8])[H:9],90.3718148905097
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])=[O:6].[H:9][H:18],84.5521030546417
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:6]=[C:7]([C:4]1([H:12])[O:3][O:5]1)[H:13])[H:11])([H:8])([H:9])[H:10],115.59921544975799
[C:1]([C:4]([C:2](=[O:3])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10].[C:5](=[O:6])([N:7]([H:15])[H:16])[H:12]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],94.3669313323714
[C:1](/[C:2](=[C:5](\[C:6]#[N:7])[H:16])[H:11])([H:8])([H:9])[H:10].[C:3](=[C:4]([H:13])[H:15])([H:12])[H:14]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10],63.6785654948406
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:4]([H:13])([H:14])[H:15])=[C:5]=[C:6]([C:3]([H:10])([H:11])[H:12])[H:16])([H:7])([H:8])[H:9],93.05287507439951
[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[O+:6]=[C-:5][H:10])([H:8])[H:9])[H:7],66.9149479816855
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:6](=[O:7])([H:13])[H:14].[N:1]([C:2](=[O:3])[N:4]([C:5]([H:11])([H:12])[H:15])[H:10])([H:8])[H:9],73.514805824364
[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([H:9])[H:10])([H:6])[H:7].[N:3](=[C:4](/[O:5][H:8])[H:12])\[H:11],62.4060868750015
